US06380242B1
(aa) (R)-1-((N-methyl pyrrolidin-2-yl)methyl)-6-(3-thienyl)-1H-indole:
(39.9 mg, 79%); from (S)-6-bromo-1-((N-methylpyrrolidin-2-yl)methyl)indole (50.0 mg, 0.17 mmol) and thiophene-3-boronic acid (43.6 mg, 0.34 mmol).

reactant | (S)-6-bromo-1-((N-methylpyrrolidin-2-yl)methyl)indole | 0.17 mmol, 50.0 mg | BrC1=CC=C2C=CN(C2=C1)C[C@H]1N(CCC1)C | C14H17BrN2
reactant | thiophene-3-boronic acid | 0.34 mmol, 43.6 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
product | (R)-1-((N-methyl pyrrolidin-2-yl)methyl)-6-(3-thienyl)-1H-indole | CN1[C@H](CCC1)CN1C=CC2=CC=C(C=C12)C1=CSC=C1 | C18H20N2S
